US05064833
D. Preparation of 4-(N-methylphenylamino)-2-(2-methylphenylamino)-6-methoxyquinazoline hydrochloride
A mixture of 2-chloro-4-(N-methylphenylamino)-6methoxyquinazoline (5.4 g, 0.027M), o-toluidine (4.28 g, 0.04M) in ethanol (50 ml) was heated in a Berchof pressure vessel at 140° for 5 hours (maximum pressure 40 psi). After cooling, ethanol/HCl was added and the solid which crystallised out was filtered off and recrystallised from isopropanol/ether to yield the title compound (4.23 g, m.p. 258°-260°).

reactant | 2-chloro-4-(N-methylphenylamino)-6methoxyquinazoline | 0.027M, 5.4 g | ClC1=NC2=CC=C(C=C2C(=N1)N(C)C1=CC=CC=C1)OC | C16H14ClN3O
reactant | o-toluidine | 0.04M, 4.28 g | NC=1C(=CC=CC1)C | C7H9N
reactant | ethanol HCl | C(C)O.Cl
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 4-(N-methylphenylamino)-2-(2-methylphenylamino)-6-methoxyquinazoline hydrochloride | 4.23 g | Cl.CN(C1=NC(=NC2=CC=C(C=C12)OC)NC1=C(C=CC=C1)C)C1=CC=CC=C1 | InChI=1S/C23H22N4O.ClH/c1-16-9-7-8-12-20(16)24-23-25-21-14-13-18(28-3)15-19(21)22(26-23)27(2)17-10-5-4-6-11-17;/h4-15H,1-3H3,(H,24,25,26);1H
